US06153641
a) 3-[1-(2-Bromomethyl-benzyl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-furan-2,5-dione
A suspension of 3-(indol-3-yl)-4-(1-methyl-indol-3-yl)-furan-2,5-dione (1.0 g, 3 mmol) and sodium hydride (154 mg, 3.5 mmol, 55-60% dispersion in oil) in dimethylformamide (20 mL) was stirred and cooled to 0° C., under a stream of nitrogen. After 35 min the solution was transferred to a dropping funnel and added slowly, over 40 min, to a solution of 1,2-bis-bromomethyl-benzene (3.8 g, 14.5 mmol) in dimethylformamide (6 mL). The resulting solution was stirred for 1 h at room temperature under a stream of nitrogen. The reaction was quenched by adding NaHCO3 (aq), and extracted with ethyl acetate. The organic phase was washed with several portions of water and dried (MgSO4). Evaporation followed by chromatography on silica (ethyl acetate:heptane, 3:7) afforded 270 mg of the desired product.

reactant | 3-(indol-3-yl)-4-(1-methyl-indol-3-yl)-furan-2,5-dione | 3 mmol, 1.0 g | N1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C21H14N2O3
reactant | sodium hydride | 3.5 mmol, 154 mg | [H-].[Na+]
reactant | 1,2-bis-bromomethyl-benzene | 14.5 mmol, 3.8 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-[1-(2-Bromomethyl-benzyl)-indol-3-yl]-4-(1-methyl-indol-3-yl)-furan-2,5-dione | 270 mg | BrCC1=C(CN2C=C(C3=CC=CC=C23)C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C=CC=C1 | C29H21BrN2O3
